US05932571
Combine 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (1.5 g, 4.74 mmol) in tetrahydrofuran (45 mL) and dimethylformamide (5 mL). Cool in an ice bath. Add sodium hydride (0.23 g, 60% in oil, 5.7 mmol). Warm to ambient temperature. After about 90 minutes, when the gas evolution ceases, add 1-iodo-4,4,4-trifluorobutane (1.35 g, 5.7 mmol). After 18 hours, add ice and then a saturated aqueous solution of ammonium chloride. Evaporate the reaction mixture to remove most of the tetrahydrofuran, dilute with ethyl acetate and extract with water and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 60% ethyl acetate/hexane to give 1-t-butoxycarbonyl-4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.40 (silica gel, ethyl acetate).

reactant | 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 4.74 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 5.7 mmol, 0.23 g | [H-].[Na+]
reactant | 1-iodo-4,4,4-trifluorobutane | 5.7 mmol, 1.35 g | ICCCC(F)(F)F | C4H6F3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-t-butoxycarbonyl-4-(1-(4,4,4-trifluorobutyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCC(F)(F)F)C=CC=C2 | C21H29F3N4O2
